US08106059B2
A solution of benzylamine (6.4 mL) and tetrahydro-1H-cyclopenta[c]furan-1,3(3aH)-dione (8 gm) in tetrahydrofuran (28 mL) was heated under reflux for 18 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, and filtered through a pad of celite. Evaporation under reduced pressure gave crude (3aR,6aS)-2-benzyltetrahydrocyclopenta[c]pyrrole-1,3(2H,3 aH)-dione.

reactant | benzylamine | 6.4 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | tetrahydro-1H-cyclopenta[c]furan-1,3(3aH)-dione | 8 gm | C1(OC(C2C1CCC2)=O)=O | C7H8O3
solvent | tetrahydrofuran | 28 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aR,6aS)-2-benzyltetrahydrocyclopenta[c]pyrrole-1,3(2H,3 aH)-dione | C(C1=CC=CC=C1)N1C([C@@H]2[C@H](C1=O)CCC2)=O | C14H15NO2
